US07449456B2
2-Chloro-4-{[3-(1-hydroxyethyl)phenyl]amino}pyrimidine-5-carboxylic acid ethyl ester synthesized in accordance with the method described in WO 99/31073 and 2-(3,5-dichloro-4-hydroxyphenyl)ethylamine hydrochloride were allowed to undergo the reaction at 80 to 90° C. in NMP in the presence of diisopropylethylamine, and the resulting compound was allowed to react with 1 M sodium hydroxide aqueous solution under heating in a mixed methanol-THF solution to obtain 2-{[2-(3,5-dichloro-4-hydroxyphenyl)ethyl]amino}-4-{[3-(1-hydroxyethyl)phenyl]amino}pyrimidine-5-carboxylic acid. F: 463

reactant | 2-Chloro-4-{[3-(1-hydroxyethyl)phenyl]amino}pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)Cl)NC1=CC(=CC=C1)C(C)O | C15H16ClN3O3
reactant | 2-(3,5-dichloro-4-hydroxyphenyl)ethylamine hydrochloride | Cl.ClC=1C=C(C=C(C1O)Cl)CCN
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | methanol THF | CO.C1CCOC1
product | 2-{[2-(3,5-dichloro-4-hydroxyphenyl)ethyl]amino}-4-{[3-(1-hydroxyethyl)phenyl]amino}pyrimidine-5-carboxylic acid | ClC=1C=C(C=C(C1O)Cl)CCNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(C)O)C(=O)O | C21H20Cl2N4O4
